US04405811
A total of 145 g of tertiarybutylaminoethoxyethanol, 108 g of 37% aqueous formaldehyde, 10 g of 10% Pd/C, and 1 l of methanol were charged to an autoclave, pressured up to 1000 psi with H2 and heated at 80° C. for 8 hours. Filtration and distillation of the reaction mixture yielded 128 g of N-methyl-N-tertiarybutylaminoethoxyethanol with b.p. of 128° C. at 23 mm.

reactant | tertiarybutylaminoethoxyethanol | 145 g | C(C)(C)(C)NCCOC(C)O | C8H19NO2
reactant | formaldehyde | 108 g | C=O | CH2O
catalyst | Pd/C | 10 g | [Pd] | Pd
solvent | methanol | 1 l | CO | CH4O
product | N-methyl-N-tertiarybutylaminoethoxyethanol | 128 g | CN(C(C)(C)C)CCOC(C)O | C9H21NO2
